US08420670B2
(rac)-1-(4-Chlorophenyl)-N*1*-(8-methoxy-2-methylquinolin-4-yl)-N*2*,N*2*-dimethylethane-1,2-diamine dihydrochloride
4-Chloro-8-methoxy-2-methylquinoline (2.00 g, 9.63 mmole), 1-(4-chlorophenyl)N*2*,N*2*-dimethylethane-1,2-diamine (2.30 g, 11.6 mmole), sodium tert-butylate (1.3 g, 13.5 mmole), tris(dibenzylidenaceton)-dipalladium(0) (0.18 g, 0.193 mmole) and 2-dicyclohexyl-phosphino-2(N,N-dimethylamino)biphenyl (0.27 g, 0.674 mmole) were stirred at 150° C. under nitrogen atmosphere in a microwave oven for 30 min. The reaction mixture was dissolved in ethyl acetate and filtered. The filtrate was extracted with water. The organic phases were dried, concentrated and the residue was purified using silica gel chromatography, eluting with dichloromethane:methanol 90:10. Precipitation in isopropanol/HCl and in ethyl acetate gave the product (1.55 g, 36%).

reactant | 4-Chloro-8-methoxy-2-methylquinoline | 9.63 mmole, 2.00 g | ClC1=CC(=NC2=C(C=CC=C12)OC)C | C11H10ClNO
reactant | 1-(4-chlorophenyl)N*2*,N*2*-dimethylethane-1,2-diamine | 11.6 mmole, 2.30 g | ClC1=CC=C(C=C1)C(CN(C)C)N | C10H15ClN2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (rac)-1-(4-Chlorophenyl)-N*1*-(8-methoxy-2-methylquinolin-4-yl)-N*2*,N*2*-dimethylethane-1,2-diamine dihydrochloride | 1.55 g, 36% | Cl.Cl.ClC1=CC=C(C=C1)C(CN(C)C)NC1=CC(=NC2=C(C=CC=C12)OC)C | InChI=1S/C21H24ClN3O.2ClH/c1-14-12-18(17-6-5-7-20(26-4)21(17)23-14)24-19(13-25(2)3)15-8-10-16(22)11-9-15;;/h5-12,19H,13H2,1-4H3,(H,23,24);2*1H
